US04471105
Into a one-liter 3-necked flask equipped with stirrer, condenser, addition funnel, and thermometer here was charged, 200 g of the above (3-brompropyl)triphenylphosphonium bromide, and 650 ml ethanol. There was then added dropwise, 240 ml of diethylamine at 50° C. with stirring. After 18 hours at 65° C., the solution was concentrated to an oil and the residue was redissolved in 500 ml ethanol. The solution was again concentrated to a solid. The resulting brown solid was slurried in 500 ml of hot tetrahydrofuran and filtered. The crystal were recrystallized from tetrahydrofuran containing a small amount of ethanol to give 230 g of (3-diethylaminopropyl)triphenylphosphonium bromide hydrobromide (M.P. 239°-241° C.).

reactant | (3-brompropyl)triphenylphosphonium bromide | 200 g | [Br-].BrCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | diethylamine | 240 ml | C(C)NCC | C4H11N
solvent | ethanol | 650 ml | C(C)O | C2H6O
product | (3-diethylaminopropyl)triphenylphosphonium bromide hydrobromide | 230 g | Br.[Br-].C(C)N(CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC | InChI=1S/C25H31NP.2BrH/c1-3-26(4-2)21-14-22-27(23-15-8-5-9-16-23,24-17-10-6-11-18-24)25-19-12-7-13-20-25;;/h5-13,15-20H,3-4,14,21-22H2,1-2H3;2*1H/q+1;;/p-1
